US04028089
The procedure described in Example 1 is repeated using, instead of 2-aminophenol, an equivalent amount of 2-amino-4-phenylphenol in ethanol and holding the mixture under reflux in the presence of 1 ml. of trimethylamine for 60 hours. The crude product is crystallized from acetone to obtain (5-phenyl-2-benzoxazolinylidene)malononitrile of melting point ca. 236° C. (dec.).

reactant | 2-aminophenol | NC1=C(C=CC=C1)O | C6H7NO
reactant | 2-amino-4-phenylphenol | NC1=C(C=CC(=C1)C1=CC=CC=C1)O | C12H11NO
reactant | trimethylamine | CN(C)C | C3H9N
solvent | ethanol | C(C)O | C2H6O
product | (5-phenyl-2-benzoxazolinylidene)malononitrile | C1(=CC=CC=C1)C=1C=CC2=C(NC(O2)=C(C#N)C#N)C1 | C16H9N3O
